* Schematics Netlist *



V_V2         $N_0001 0 0V
R_R1         $N_0003 $N_0002  0.1k  
R_R3         0 $N_0002  0.47k  
R_R2         $N_0002 $N_0001  0.22k  
V_V1         $N_0003 0 5V
R_R4         $N_0005 $N_0004  0.1k  
R_R5         0 $N_0004  0.47k  
R_R6         $N_0004 $N_0006  0.22k  
R_R7         $N_0008 $N_0007  0.1k  
R_R8         0 $N_0007  0.47k  
R_R9         $N_0007 $N_0009  0.22k  
V_V6         $N_0008 0 5V
V_V4         $N_0005 0 0V
V_V3         $N_0006 0 7V
V_V5         $N_0009 0 7V
