* Schematics Netlist *



V_V2         $N_0001 0 0V
V_V1         $N_0002 0 5V
R_R1         $N_0002 $N_0003  1.2k  
R_R2         $N_0003 $N_0001  2.2k  
R_R3         0 $N_0003  3.3k  
R_R10         $N_0005 $N_0004  1.2k  
R_R11         $N_0004 $N_0006  2.2k  
R_R12         0 $N_0004  3.3k  
V_V10         $N_0007 0 5V
R_R13         $N_0007 $N_0008  1.2k  
R_R14         $N_0008 $N_0009  2.2k  
R_R15         0 $N_0008  3.3k  
V_V8         $N_0005 0 0V
V_V7         $N_0006 0 7V
V_V9         $N_0009 0 7V
