* Schematics Netlist *



V_V1         $N_0001 0 9.5V
R_R1         0 $N_0001  3k  
R_R2         0 $N_0001  10.5k  
R_R6         0 $N_0001  3.5k  
