* Schematics Netlist *



V_V1         $N_0001 0 11.5
R_R1         $N_0001 $N_0002  4k  
R_R2         $N_0002 $N_0003  9.5k  
R_R3         $N_0003 0  5.5k  
