* Schematics Netlist *



R_R1         $N_0002 $N_0001  12  
R_R2         $N_0002 $N_0003  12  
R_R3         $N_0003 $N_0004  8  
V_V3         $N_0001 $N_0004 20V
R_R5         0 $N_0003  4  
R_R6         0 $N_0002  6  
R_R4         0 $N_0001  10  
